US07067506B2
1-(5-Aminomethyl-pyrazin-2-yl)-3-(2-methoxy-5-methyl-phenyl)-urea
To a stirred solution of 1-[5-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-pyrazin-2-yl]-3-(2-methoxy-5-methyl-phenyl)-urea (16 mg, 38 μmol) in 380 μL 95% EtOH and 100 μL DMF at room temperature in a capped reaction vial was added hydrazine monohydrate (3.8 μL, 76 μmol). After stirring overnight at room temperature, a white precipitate formed. The precipitate was filtered off, dried and triturated with EtOAc to remove phthalimide based impurities to provide the product as a white solid (7.9 mg, 72%). 1H-NMR (400 MHz, d6-DMSO) δ9.54 (s, 1H), 8.80 (s, 1H), 8.46 (s, 1H), 8.02 (s, 1H), 6.93 (d, 1H), 6.79 (d, 1H), 4.51 (d, 2H), 4.39 (br s, 2H), 3.89 (s, 3H), 2.23 (s, 3H). LRLCMS (ESI, Positive) m/e 288.2 (M+1).

reactant | 1-[5-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-pyrazin-2-yl]-3-(2-methoxy-5-methyl-phenyl)-urea | 38 μmol, 16 mg | O=C1N(C(C2=CC=CC=C12)=O)CC=1N=CC(=NC1)NC(=O)NC1=C(C=CC(=C1)C)OC | C22H19N5O4
reactant | hydrazine monohydrate | 76 μmol, 3.8 μL | O.NN
solvent | EtOH | 380 μL | CCO | C2H6O
solvent | DMF | 100 μL | CN(C)C=O | C3H7NO
product | 1-(5-Aminomethyl-pyrazin-2-yl)-3-(2-methoxy-5-methyl-phenyl)-urea | 7.9 mg, 72% | NCC=1N=CC(=NC1)NC(=O)NC1=C(C=CC(=C1)C)OC | C14H17N5O2
